US07238808B2
5-[7-Trifluoromethyl-5-(4-trifluoromethyl-phenyl)-pyrazolo[1,5-a]pyrimidin-3-ylethynyl]-pyridine-2-carbonitrile
The title compound was prepared from 3-ethynyl-7-trifluoromethyl-5-(4-trifluoromethyl-phenyl)-pyrazolo[1,5-a]pyrimidine (example C.1) (710 mg, 2.0 mmol) and commercially available 5-bromo-2-cyano-pyridine (366 mg, 2.0 mmol) according to general procedure II. Obtained as an orange solid (730 mg, 80%). MS (EI) 457.1 [(M)+]; mp 212° C.

reactant | 3-ethynyl-7-trifluoromethyl-5-(4-trifluoromethyl-phenyl)-pyrazolo[1,5-a]pyrimidine | 2.0 mmol, 710 mg | C(#C)C=1C=NN2C1N=C(C=C2C(F)(F)F)C2=CC=C(C=C2)C(F)(F)F | C16H7F6N3
reactant | 5-bromo-2-cyano-pyridine | 2.0 mmol, 366 mg | BrC=1C=CC(=NC1)C#N | C6H3BrN2
product | 5-[7-Trifluoromethyl-5-(4-trifluoromethyl-phenyl)-pyrazolo[1,5-a]pyrimidin-3-ylethynyl]-pyridine-2-carbonitrile | FC(C1=CC(=NC=2N1N=CC2C#CC=2C=CC(=NC2)C#N)C2=CC=C(C=C2)C(F)(F)F)(F)F | C22H9F6N5
